US07723376B2
Step 2. Preparation of N-hydroxy-3-(1-methyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionamide (j2)
50 mg of 3-(1-methyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionic acid methyl ester prepared from the above Step 1 was dissolved in methanol (0.25 mM) and then 0.122 ml of 1.7M NH2OK suspension solution in methanol (0.207 mM) was added thereto at 0° C. and the resulting mixture was stirred for 3 hrs at room temperature. The resulting mixture was neutralized with 0.02 ml of acetic acid, diluted with 10 ml of ethyl acetate, filtered and concentrated in vacuo. The resulting compound was purified by column chromatography on Silica gel with methanol/chloroform (1:20) solvent mixture as an eluant to give 19 mg of the title compound (j2) (yield: 35%).

reactant | 3-(1-methyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionic acid methyl ester | 50 mg | COC(CCC=1C(N(CCC1)C)=O)=O | C10H15NO3
reactant | NH2OK | 1.7M, 0.122 ml | NO[K]
reactant | acetic acid | 0.02 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 0.25 mM | CO | CH4O
solvent | methanol | 0.207 mM | CO | CH4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-hydroxy-3-(1-methyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionamide | 19 mg, yield: 35% | ONC(CCC=1C(N(CCC1)C)=O)=O | C9H14N2O3
